US04735940
4.08 g of 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide (internal salt) and 1.95 ml of acrylonitrile were heated together under reflux overnight in 250 ml of toluene. After evaporation of the solvent in vacuo, the residue was recrystallized from acetonitrile. There was obtained 1,2,3,4,6,7-hexahydro-4-oxo-3-phenyl-3,11b-epithio-11bH-benzo[a]quinolizine-1-carbonitrile of m.p. 225°-226°.

reactant | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide | 4.08 g | [OH-].OC1=C(SC2=[N+]1CCC1=CC=CC=C21)C2=CC=CC=C2
reactant | acrylonitrile | 1.95 ml | C(C=C)#N | C3H3N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4,6,7-hexahydro-4-oxo-3-phenyl-3,11b-epithio-11bH-benzo[a]quinolizine-1-carbonitrile | O=C1N2CCC3=C(C24C(CC1(S4)C4=CC=CC=C4)C#N)C=CC=C3 | C20H16N2OS
